US07491722B2
6-Ethyl-4-phenyl-3-styryl-6H-isoxazolo[3,4-d]pyridazin-7-one
To a freshly prepared solution of sodium methoxide (108 mg, 1.96 mmol) in methanol (2 ml), a solution of 6-ethyl-3-methyl-4-phenyl-6H-isoxazolo[3,4-d]pyridazin-7-one (500 mg, 1.96 mmol) (Dal Piaz, V.; Giovannoni, M. P.; Castellana, C.; et al, J. Med. Chem. 1997, 40, 1417-1421) in of dry methanol (2 ml) was added and the mixture was stirred for a while. Then, benzaldehyde (0.40 ml, 3.92 mmol) was added dropwise and the final mixture was refluxed for 2 hours. The resulting suspension was let to cool down and the final product (514 mg, 76%-yield) was collected by filtration.

reactant | sodium methoxide | 1.96 mmol, 108 mg | C[O-].[Na+]
reactant | 6-ethyl-3-methyl-4-phenyl-6H-isoxazolo[3,4-d]pyridazin-7-one | 1.96 mmol, 500 mg | C(C)N1N=C(C=2C(C1=O)=NOC2C)C2=CC=CC=C2 | C14H13N3O2
reactant | benzaldehyde | 3.92 mmol, 0.40 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | 6-Ethyl-4-phenyl-3-styryl-6H-isoxazolo[3,4-d]pyridazin-7-one | C(C)N1N=C(C=2C(C1=O)=NOC2C=CC2=CC=CC=C2)C2=CC=CC=C2 | C21H17N3O2
